US05248693
135 ml of N,N-dimethylformamide and 22 ml of triethylamine are taken and 7.5 g of 2-iodobenzenesulfonamide, 2.6 g of pent-4-yn-1-yl-methyl ether as well as 0.067 g of copper(I) iodide and 0.144 g of bis(triphenylphosphine)palladium(II) dichloride are added. The reaction mixture is heated to 65° and stirred for 22 hours at that temperature under argon. After that time, the N,N-dimethylformamide is distilled off at 0.1 torr and 40°. The crude product is purified on 500 g of silica gel (Merck Si 60, 40-63 μm) with hexane/ethyl acetate=2/1 as eluant. The fractions containing the product are concentrated by evaporation at 15 torr and 40° to yield white crystalline 2-(5-methoxy-pent-1-yn-1-yl)-benzenesulfonamide, melting point: 59°-61°.

reactant | N,N-dimethylformamide | 135 ml | CN(C=O)C | C3H7NO
reactant | 2-iodobenzenesulfonamide | 7.5 g | IC1=C(C=CC=C1)S(=O)(=O)N | C6H6INO2S
reactant | pent-4-yn-1-yl-methyl ether | 2.6 g | C(CCC#C)OC | C6H10O
catalyst | copper(I) iodide | 0.067 g | [Cu]I
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.144 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | triethylamine | 22 ml | C(C)N(CC)CC | C6H15N
product | 2-(5-methoxy-pent-1-yn-1-yl)-benzenesulfonamide | COCCCC#CC1=C(C=CC=C1)S(=O)(=O)N | C12H15NO3S
